US09278922B2
N-(4-chloro-3-nitrobenzyl)aniline
To a solution of 4-chloro-3-nitrobenzaldehyde (10.0 g, 53.9 mmol) and aniline (2.34 mL, 25.7 mmol) in ethanol (200 mL) was added acetic acid (7.35 mL, 128 mmol), followed by the portion-wise addition of sodium cyanoborohydride (4.84 g, 77 mmol). The resulting mixture was stirred at rt for 2.5 hrs and concentrated to vacuo. The residue was partitioned between ethyl acetate and saturated aq. NaHCO3, and the organic layer was dried over anhydrous Na2SO4. The drying agent was filtered off, and solvent was removed in vacuo to give a crude product that was purified by column chromatography on silica gel using a solvent gradient of 0-1% methanol in dichloromethane to give the title compound (5.7 g, 85%).

reactant | 4-chloro-3-nitrobenzaldehyde | 53.9 mmol, 10.0 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | aniline | 25.7 mmol, 2.34 mL | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 128 mmol, 7.35 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 77 mmol, 4.84 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-(4-chloro-3-nitrobenzyl)aniline | 5.7 g, 85% | ClC1=C(C=C(CNC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H11ClN2O2
